US07169951B2
1.02 g (3.41 mmol) of t-butyl (±)-2-(4-aminosulfonylphenyl)butyrate acid and 1.04 g (3.41 mmol) of methyl 4-chloro-2-N-phenoxycarbonylanthranilate were treated in the same way as Example 1 to obtain 1.46 g (yield 84%) of methyl 2-[({4-[1-(t-butoxycarbonyl)propyl]benzenesulfonylamino}carbonyl)amino]-4-chlorobenzoate. Properties: colorless amorphous, PMR (δ ppm, CDCl3):0.89 (3H, t), 1.38 (9H, s), 1.69–1.76 (1H, m), 2.03–2.10 (1H, m), 3.42 (1H, t), 3.94 (3H, s), 7.04 (1H, d), 7.47 (2H, d), 7.93 (1H, d), 8.01 (2H, d), 8.45 (1H, br), 11.04 (1H, br).

reactant | t-butyl (±)-2-(4-aminosulfonylphenyl)butyrate | 3.41 mmol, 1.02 g | NS(=O)(=O)C1=CC=C(C=C1)C(C(=O)OC(C)(C)C)CC | C14H21NO4S
reactant | methyl 4-chloro-2-N-phenoxycarbonylanthranilate | 3.41 mmol, 1.04 g | ClC=1C=C(C(C(=O)OC)=CC1)NC(=O)OC1=CC=CC=C1 | C15H12ClNO4
product | methyl 2-[({4-[1-(t-butoxycarbonyl)propyl]benzenesulfonylamino}carbonyl)amino]-4-chlorobenzoate | 1.46 g, yield 84% | C(C)(C)(C)OC(=O)C(CC)C1=CC=C(C=C1)S(=O)(=O)NC(=O)NC1=C(C(=O)OC)C=CC(=C1)Cl | C23H27ClN2O7S
